US05594023
5-Ethoxy-3-(2-ethoxycarbonyl-1-ethoxycarbonylhydrazino)-1,3-dihydro-1-(2,4-dimethoxybenzenesulfonyl)-3-phenylindol-2-one
This compound is prepared according to the procedure described in EXAMPLE 1 from 0.500 g of 5-ethoxy-3-(2-ethoxycarbonyl-1-ethoxycarbonylhydrazino)-1,3-dihydro-3-phenylindol-2-one and 0.280 g of 2,4-dimethoxybenzenesulfonyl chloride. The expected product is obtained after crystallization from a DCM/iso ether mixture. m=0.383 g. M.p.=228°-229° C.

reactant | 5-ethoxy-3-(2-ethoxycarbonyl-1-ethoxycarbonylhydrazino)-1,3-dihydro-3-phenylindol-2-one | 0.500 g | C(C)OC=1C=C2C(C(NC2=CC1)=O)(C1=CC=CC=C1)N(NC(=O)OCC)C(=O)OCC | C22H25N3O6
reactant | 2,4-dimethoxybenzenesulfonyl chloride | 0.280 g | COC1=C(C=CC(=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
product | 5-Ethoxy-3-(2-ethoxycarbonyl-1-ethoxycarbonylhydrazino)-1,3-dihydro-1-(2,4-dimethoxybenzenesulfonyl)-3-phenylindol-2-one | C(C)OC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)(C1=CC=CC=C1)N(NC(=O)OCC)C(=O)OCC | C30H33N3O10S
